US08034812B2
Production of 5-acetyl-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]thiophene-2-carboxamide
Using N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (150 mg, 0.49 mmol), 5-acetylthiophene-2-carboxylic acid (85 mg, 0.50 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (98 mg, 0.51 mmol), 1-hydroxybenzotriazole (69 mg, 0.51 mmol) and N,N-dimethylformamide (6.0 mL) as starting materials and in the same manner as in Example 318, the title compound (110 mg, 48%) was obtained as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.49 mmol, 150 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 5-acetylthiophene-2-carboxylic acid | 0.50 mmol, 85 mg | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.51 mmol, 98 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.51 mmol, 69 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | 5-acetyl-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]thiophene-2-carboxamide | 110 mg, 48% | C(C)(=O)C1=CC=C(S1)C(=O)NC1=CC(=CC=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C23H19N5O4S
